US07214686B2
To a stirred solution of 2-(5-amino-3-pyridyl)-1-azabicyclo[2.2.2]octane trihydrochloride (50 mg, 0.16 mmol) in dry isopropanol (5 mL) was added isoamyl nitrite (0.1 mL, 0.97 mmol) and the reaction mixture was refluxed for 2 h. When TLC analysis of the reaction mixture showed the absence of starting material, the mixture was allowed to warm to ambient temperature and then the solvent was removed under vacuum. A white solid was obtained upon the addition of dry diethyl ether. The solid was dissolved with heating in a minimum amount of chloroform, and the solution kept over night at 4° C. to induce crystallization. The solid thus obtained was filtered and dried under vacuum for 24 h to afford 2-(5-isopropoxy-3-pyridyl)-1-azabicyclo[2.2.2]octane dihydrochloride (28 mg, 55%) as colorless needles.

reactant | 2-(5-amino-3-pyridyl)-1-azabicyclo[2.2.2]octane trihydrochloride | 0.16 mmol, 50 mg | Cl.Cl.Cl.NC=1C=C(C=NC1)C1N2CCC(C1)CC2
reactant | isoamyl nitrite | 0.97 mmol, 0.1 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | 2-(5-isopropoxy-3-pyridyl)-1-azabicyclo[2.2.2]octane dihydrochloride | 28 mg, 55% | Cl.Cl.C(C)(C)OC=1C=C(C=NC1)C1N2CCC(C1)CC2 | InChI=1S/C15H22N2O.2ClH/c1-11(2)18-14-8-13(9-16-10-14)15-7-12-3-5-17(15)6-4-12;;/h8-12,15H,3-7H2,1-2H3;2*1H
